US05780642
Lithium aluminium hydride (0.23 g) was added to a solution of methyl N-[2-(4-chlorophenoxy)ethyl]-N-[3-(imidazol-1-yl)propyl]glycinate (1.30 g) in THF (30 ml). The mixture was boiled under reflux for 4 hours and then cooled. Water (1 ml) was added followed by 5M sodium hydroxide solution (2 ml) and then more water (2 ml). The mixture was filtered to remove the precipitate using a filtration aid. The filtrate was washed with water, dried and evaporated to give 2-{N-[2-(4-chlorophenoxy)ethyl]-N-[3-(imidazol-1-yl)propyl]amino}ethanol as an oil.

reactant | Lithium aluminium hydride | 0.23 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl N-[2-(4-chlorophenoxy)ethyl]-N-[3-(imidazol-1-yl)propyl]glycinate | 1.30 g | ClC1=CC=C(OCCN(CC(=O)OC)CCCN2C=NC=C2)C=C1 | C17H22ClN3O3
reactant | Water | 1 ml | O | H2O
reactant | sodium hydroxide | 5M, 2 ml | [OH-].[Na+]
reactant | water | 2 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-{N-[2-(4-chlorophenoxy)ethyl]-N-[3-(imidazol-1-yl)propyl]amino}ethanol | ClC1=CC=C(OCCN(CCCN2C=NC=C2)CCO)C=C1 | C16H22ClN3O2
